US06825181B1
Step 2: Synthesis of 1-amino-5-hydroxyisoquinoline monohydrobromide:
900 mg (5.66 mmol) of 5-methoxyisoquinoline was dissolved in 20 ml of xylene. 4.26 ml (28.3 mmol) of N,N,N′,N′-tetramethylenediamine and 1.17 g (30.0 mmol) of sodium amide were added to the obtained solution, and they were stirred at 140° C. for 1 hour. After the treatment with ethyl acetate as the extraction solvent in an ordinary manner, 10 ml of hydrobromic acid was added to the obtained crude product and they were heated under reflux for 6 hours. The solvent was evaporated to obtain the title compound.

reactant | 5-methoxyisoquinoline | 5.66 mmol, 900 mg | COC1=C2C=CN=CC2=CC=C1 | C10H9NO
reactant | sodium amide | 30.0 mmol, 1.17 g | [NH2-].[Na+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | hydrobromic acid | 10 ml | Br | BrH
solvent | xylene | 20 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 1-amino-5-hydroxyisoquinoline monohydrobromide | Br.NC1=NC=CC2=C(C=CC=C12)O | InChI=1S/C9H8N2O.BrH/c10-9-7-2-1-3-8(12)6(7)4-5-11-9;/h1-5,12H,(H2,10,11);1H
